US03972913
Silver acetate (17.0 grams; 0.10 mole) was mixed with 200 ml. of carbon tetrachloride and the mixture cooled in an aqueous alcohol bath to about -11° to -13°C. A solution of bromine (16.0 grams; 0.10 mole) in 100 ml. of carbon tetrachloride was added dropwise to the acetate solution while maintaining the reaction mixture temperature below about -11°C. Upon the completion of the bromine addition, the reaction mixture was stirred at temperatures below about -11°C. for about 30 minutes. Following this period, a solution of α-(2,2,2-trichloroethyl)styrene (11.2 grams; 0.05 mole) in 100 ml of carbon tetrachloride was added dropwise to the reaction mixture over a period of about one hour, while maintaining the reaction mixture temperature below about 5°C. The reaction mixture was warmed to ambient temperatures and stirred for a period of from about 1 to about 15 hours. Following this period the reaction mixture was filtered and the recovered silver halide precipitate extracted with methylene chloride. The extract was combined with the filtrate and the mixture washed successively with 5% NaHSO3 (3-100 ml. portions) and 100 ml. of water and then dried over sodium sulfate. The organic product layer was then evaporated in vacuo to obtain the desired α-(bromomethyl)-α -(2,2,2-trichloroethyl)benzyl acetate as a light yellow oil.

reactant | bromine | 0.10 mole, 16.0 grams | BrBr | Br2
reactant | acetate | C(C)(=O)[O-]
reactant | α-(2,2,2-trichloroethyl)styrene | 0.05 mole, 11.2 grams | ClC(CC(=C)C1=CC=CC=C1)(Cl)Cl | C10H9Cl3
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | Silver acetate | 0.10 mole, 17.0 grams | C(C)(=O)[O-].[Ag+]
product | α-(bromomethyl)-α -(2,2,2-trichloroethyl)benzyl acetate | C(C)(=O)OC(C1=CC=CC=C1)(CC(Cl)(Cl)Cl)CBr | C12H12BrCl3O2
